US08049016B2
Synthesis of 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((4-methylthiazol-2-yl)methyl)thiazole-5-carboxamide
Following the procedure as describe in Example 16, making variations as required to replace 3-(aminomethyl)pyridine with 1-(4-methyl-1,3-thiazole-4-yl)methylamine to react with 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colourless solid in 77% yield: mp 157-159° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.42 (t, J=6.0 Hz, 1H), 7.11 (s, 1H), 4.36 (d, J=6.0 Hz, 1H), 4.02-3.96 (m, 2H), 3.64-3.47 (m, 3H), 3.20-3.12 (m, 1H), 2.59 (s, 3H), 2.44 (s, 3H), 2.04-1.89 (m, 1H), 1.68-1.55 (m, 1H), 1.37-1.26 (m, 1H); MS (ES+) m/z 428.9 (M+1).

reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | 1-(4-methyl-1,3-thiazole-4-yl)methylamine | CC1(N=CSC1)CN | C5H10N2S
reactant | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O)F | C12H13F2N3O3S
product | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-((4-methylthiazol-2-yl)methyl)thiazole-5-carboxamide | 77% yield | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1SC=C(N1)C)=O)F | C17H19F2N5O2S2
